US04269832
2-(1-Piperazinyl)-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine
A 21 g. portion of piperazine in 500 ml. of methyl cellosolve is treated with 17.1 g. of 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine. The mixture is stirred at reflux for 8 hours and then at room temperature. The mixture is filtered and the filtrate is taken to dryness in vacuo. The residue is shaken with 200 ml. of water, filtered, the insolubles collected, washed with 500 ml. of water and dried. The solid is suspended in 500 ml. of boiling ethanol, 150 ml. of methyl cellosolve is added and the mixture is concentrated to 300 ml., clarified and cooled to 10° C. The mixture is then taken to dryness in vacuo and the residue is recrystallized from 250 ml. of 60% ethanol with charcoal. The solid is washed with 100 ml. of 50% cold ethanol and dried giving the desired product, m.p. 183°-185° C.

reactant | piperazine | N1CCNCC1 | C4H10N2
reactant | 2-chloro-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine | ClC1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C17H32ClN5
solvent | methyl cellosolve | COCCO | C3H8O2
product | 2-(1-Piperazinyl)-4,6-bis[(1,1,2,2-tetramethylpropyl)amino]-s-triazine | N1(CCNCC1)C1=NC(=NC(=N1)NC(C(C)(C)C)(C)C)NC(C(C)(C)C)(C)C | C21H41N7
